US04731368
2-Sulfamoyl-6-(3-cyanobenzyl)-4,5,6,7-tetrahydrothieno[2.3-c]pyridine
To a partial suspension of 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (2.20 g, 10.1 mmol) in acetonitrile (50 ml) containing 3-cyanobenzylbromide (2.36 g, 12 mmol) was added triethylamine (1.70 ml, 12.2 mmol). After stirring at room temperature for three hours, the clear solution was diluted with water and the product was extracted into ethyl acetate/methanol, dried over anhydrous sodium sulfate, filtered and evaporated to give a residue which was triturated with methylene chloride/diethyl ether to give purified product (3.2 g, 96% yield). Recrystallization from hot ethanol gave product (2.4 g), m.p. 137°-139° C.

reactant | 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 10.1 mmol, 2.20 g | S(N)(=O)(=O)C1=CC2=C(CNCC2)S1 | C7H10N2O2S2
reactant | 3-cyanobenzylbromide | 12 mmol, 2.36 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | triethylamine | 12.2 mmol, 1.70 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-Sulfamoyl-6-(3-cyanobenzyl)-4,5,6,7-tetrahydrothieno[2.3-c]pyridine | 3.2 g, 96% yield | S(N)(=O)(=O)C1=CC2=C(CN(CC2)CC2=CC(=CC=C2)C#N)S1 | C15H15N3O2S2
